US03935316
Preparation of 3-Phenylpyruvoyl chloride 1-Phenylhydrazone
The foregoing procedure was repeated, but using 12.1 gms. 1-phenyl-2,3,4-pentanetrione-3-phenylhydrazone, 100 ml. chloroform, and 6 ml. tert-butyl hypochlorite. Upon recrystallization from 100 ml. methanol there was obtained 6.3 gms. of compound having a melting point at 132° to 134°C.

reactant | 1-phenyl-2,3,4-pentanetrione-3-phenylhydrazone | C1(=CC=CC=C1)NN=C(C(CC1=CC=CC=C1)=O)C(C)=O | C17H16N2O2
reactant | tert-butyl hypochlorite | ClOC(C)(C)C | C4H9ClO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-Phenylpyruvoyl chloride 1-Phenylhydrazone | C1(=CC=CC=C1)NN=C(C(=O)Cl)CC1=CC=CC=C1 | C15H13ClN2O
